US05047411
A mixture of 2-[2-(4-aminophenyl)ethyl]pyridine (5.94 g) and ammonium thiocyanate (4.56 g) in acetic acid (50 ml) was stirred at ambient temperature for one hour. A solution of bromine (4.8 g) in acetic acid (5 ml) was dropwise added to the above mixture at 18° to 23° C. under stirring and the resultant mixture was stirred at ambient temperature for 3 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and water. The solution was acidified to pH 1.0 with hydrochloric acid. The separated aqueous layer was adjusted to pH 7.5 with aqueous 20% potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from ethyl acetate to give 6-[2-(2-pyridyl)ethyl]-2-aminobenzothiazole (4.8 g).

reactant | 2-[2-(4-aminophenyl)ethyl]pyridine | 5.94 g | NC1=CC=C(C=C1)CCC1=NC=CC=C1 | C13H14N2
reactant | ammonium thiocyanate | 4.56 g | [S-]C#N.[NH4+]
reactant | bromine | 4.8 g | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 6-[2-(2-pyridyl)ethyl]-2-aminobenzothiazole | 4.8 g | N1=C(C=CC=C1)CCC1=CC2=C(N=C(S2)N)C=C1 | C14H13N3S
